US06117875
A mixture of 3-amino-2-[3-[(E)-2-[5-[(E)-2-(4-pyridyl)vinyl]pyridin-3-yl]vinyl]phenylamino]pyridine (260 mg) and 3-pyridylpyruvic acid (121 mg) in ethanol (5 ml) was stirred under reflux for 5 hours. After removal of the solvent, the residue was chromatographed on silica gel column (chloroform-methanol, 9:1) and crystallized from methanol to give 2-(3-pyridylmethyl)-3-oxo-4-[3-[(E)-2-[5-[(E)-2-(4-pyridyl)vinyl]pyridin-3-yl]vinyl]phenyl]-3,4-dihydropyrido[2,3-b]pyrazine (208 mg).

reactant | 3-amino-2-[3-[(E)-2-[5-[(E)-2-(4-pyridyl)vinyl]pyridin-3-yl]vinyl]phenylamino]pyridine | 260 mg | NC=1C(=NC=CC1)NC1=CC(=CC=C1)\C=C\C=1C=NC=C(C1)\C=C\C1=CC=NC=C1 | C25H21N5
reactant | 3-pyridylpyruvic acid | 121 mg | N1=CC(=CC=C1)CC(C(=O)O)=O | C8H7NO3
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 2-(3-pyridylmethyl)-3-oxo-4-[3-[(E)-2-[5-[(E)-2-(4-pyridyl)vinyl]pyridin-3-yl]vinyl]phenyl]-3,4-dihydropyrido[2,3-b]pyrazine | 208 mg | N1=CC(=CC=C1)CC1=NC2=C(N(C1=O)C1=CC(=CC=C1)\C=C\C=1C=NC=C(C1)\C=C\C1=CC=NC=C1)N=CC=C2 | C33H24N6O
